US04230850
4-(3'-Morpholino-2',2'-dimethylpropoxy)-3-phenyl-coumarin
Prepared according to the method of Example 8 from 4-hydroxy-3-phenyl-coumarin and 3-morpholino-2,2-dimethyl-1-chloropropane. By recrystallisation from ethanol, a solid melting at 167° C. is obtained. Yield 87.2%.

reactant | 4-hydroxy-3-phenyl-coumarin | OC1=C(C(OC2=CC=CC=C12)=O)C1=CC=CC=C1 | C15H10O3
reactant | 3-morpholino-2,2-dimethyl-1-chloropropane | O1CCN(CC1)CC(CCl)(C)C | C9H18ClNO
product | 4-(3'-Morpholino-2',2'-dimethylpropoxy)-3-phenyl-coumarin | Yield 87.2% | O1CCN(CC1)CC(COC1=C(C(OC2=CC=CC=C12)=O)C1=CC=CC=C1)(C)C | C24H27NO4
